US04649146
To a solution of 2-methylamino-4-formyl-5-(4-pyridyl)thiazole (1.1 g) in a mixture of tetrahydrofuran (40 ml) and water (40 ml) was added triphenyl (4-pyridylmethyl)phosphonium iodide hydrochloride (7.8 g). The resultant mixture was stirred at ambient temperature for 3 hours, during which time the mixture was maintained at pH 9.5 to 10 with 20% aqueous potassium carbonate. The reaction mixture was adjusted to pH 1.0 with 10% hydrochloric acid and washed with ethyl acetate. The aqueous solution was adjusted to pH 7.0 with 20% aqueous potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The organic extract was dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to column chromatography on silica gel eluting with a mixture of ethyl acetate and tetrahydrofuran (4:1). The fractions containing the desired compound were combined and evaporated in vacuo to give 2-methylamino-4-[2-(4-pyridyl)vinyl]-5-(4-pyridyl)thiazole (0.16 g).

reactant | 2-methylamino-4-formyl-5-(4-pyridyl)thiazole | 1.1 g | CNC=1SC(=C(N1)C=O)C1=CC=NC=C1 | C10H9N3OS
reactant | triphenyl (4-pyridylmethyl)phosphonium iodide hydrochloride | 7.8 g | Cl.[I-].C1(=CC=CC=C1)[P+](CC1=CC=NC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | 2-methylamino-4-[2-(4-pyridyl)vinyl]-5-(4-pyridyl)thiazole | 0.16 g | CNC=1SC(=C(N1)C=CC1=CC=NC=C1)C1=CC=NC=C1 | C16H14N4S
